US04035395
67.1 g (0.5 mol) of hydrocinnamaldehyde, 35.1 g (0.5 mol) of methyl vinyl ketone, 13.5 g (0.05 mol) of Cat. 1, 20.2 g (0.2 mol) of triethylamine and 500 ml of ethanol are brought together, in the manner described in Example 1. The product is worked up as described in Example 21. Fractional distillation gives 1-phenyl-heptane-3,6-dione.

reactant | hydrocinnamaldehyde | 0.5 mol, 67.1 g | C(CCC1=CC=CC=C1)=O | C9H10O
reactant | methyl vinyl ketone | 0.5 mol, 35.1 g | C(=C)C(=O)C | C4H6O
reactant | triethylamine | 0.2 mol, 20.2 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-phenyl-heptane-3,6-dione | C1(=CC=CC=C1)CCC(CCC(C)=O)=O | C13H16O2
